US08614213B2
Step 1: Ethyl 4-amino-2-methylcyclohexanecarboxylate
Ethyl 2-methyl-4-oxocyclohex-2-enecarboxylate (2.0 g, 10.98 mmol) is dissolved in MeOH (40 ml) and water (4.0 ml) to give a yellow solution. Ammonium formate (8.31 g, 132 mmol) is added and stirred at RT until the suspension dissolves to form a solution. Palladium on carbon (0.117 g, 1.098 mmol) is added and the reaction mixture is stirred at 70° C. for 1 hour. The mixture is filtered through Celite® (filter material) and washed with MeOH. The filtrate is concentrated in vacuo and the residue is partitioned between EtOAc and water. The aqueous portion is diluted with sat. sodium bicarbonate and washed with EtOAc. The pH is adjusted to pH14 using 1M NaOH and the aqueous is extracted with EtOAc. The combined organic extracts are dried MgSO4, filtered and concentrated in vacuo to afford the title compound; [MH]+186.24.

reactant | Ethyl 2-methyl-4-oxocyclohex-2-enecarboxylate | 10.98 mmol, 2.0 g | CC=1C(CCC(C1)=O)C(=O)OCC | C10H14O3
reactant | water | 4.0 ml | O | H2O
reactant | Ammonium formate | 132 mmol, 8.31 g | C(=O)[O-].[NH4+]
solvent | MeOH | 40 ml | CO | CH4O
catalyst | Palladium on carbon | 1.098 mmol, 0.117 g | [Pd] | Pd
product | Ethyl 4-amino-2-methylcyclohexanecarboxylate | NC1CC(C(CC1)C(=O)OCC)C | C10H19NO2
